US04110447
2.25 g of 3-p-biphenylyl-butylamine are dissolved in 30 ml of formic acid, 10 ml of acetic anhydride are added dropwise at 60°, while stirring, and the mixture is allowed to stand overnight and worked up in the customary manner to give 1-formamido-3-p-biphenylyl-butane.

reactant | 3-p-biphenylyl-butylamine | 2.25 g | C1(=C(C=CC=C1)C(CCN)C)C1=CC=CC=C1 | C16H19N
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 30 ml | C(=O)O | CH2O2
product | 1-formamido-3-p-biphenylyl-butane | C(=O)NCCC(C)C1=C(C=CC=C1)C1=CC=CC=C1 | C17H19NO
